US05942530
A. Preparation of 3-methyl-allyloxybenzene
m-Cresol 10.4 ml (100 mmole), 10.8 ml (125 mmole) allyl bromide, and 16.56 g (120 mmole) of potassium carbonate were stirred in 50 ml of acetone and refluxed, with stirring, under nitrogen, for 18 hours. The reaction was cooled, the insoluble inorganics were filtered off and the filtrate was stripped to give 14.0 g (95%) of subtitled product, which was used without further purification.

reactant | m-Cresol | 100 mmole, 10.4 ml | C1=C(C=CC=C1O)C | C7H8O
reactant | allyl bromide | 125 mmole, 10.8 ml | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 120 mmole, 16.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 3-methyl-allyloxybenzene | 14.0 g, 95% | CC=1C=C(C=CC1)OCC=C | C10H12O
